US08034812B2
Production of 6-iodo-N-methylimidazo[1,2-b]pyridazine-2-carboxamide
To a suspension of ethyl 6-iodoimidazo[1,2-b]pyridazine-2-carboxylate (4.5 g, 14.8 mmol) in methanol (13.5 mL) was added dropwise a solution of methylamine/tetrahydrofuran (2 mol/L, 37.1 mL, 74.2 mmol), and the mixture was stirred at room temperature for 96 hr. The solvent was evaporated under reduced pressure, and the residue was washed with ethyl acetate, saturated brine and water to give the title compound (3.2 g, 71%) as a dark brown powder.

reactant | ethyl 6-iodoimidazo[1,2-b]pyridazine-2-carboxylate | 14.8 mmol, 4.5 g | IC=1C=CC=2N(N1)C=C(N2)C(=O)OCC | C9H8IN3O2
reactant | methylamine tetrahydrofuran | 74.2 mmol, 2 mol/L, 37.1 mL | CN.O1CCCC1
solvent | methanol | 13.5 mL | CO | CH4O
product | 6-iodo-N-methylimidazo[1,2-b]pyridazine-2-carboxamide | 3.2 g, 71% | IC=1C=CC=2N(N1)C=C(N2)C(=O)NC | C8H7IN4O
